US04864052
Ozone gas was bubbled at -78° C. into a solution of 3.50 g (10.0 mmol) of 3-phenoxyphenylmethyl 2,2-dimethyl- 3-(2-methyl-1-propenyl)cyclopropanecarboxylate obtained in Reference Example 2, in 20 ml of ethyl acetate. The subsequent operation was conducted in the same manner as those in Reference Example 5, whereby 2.66 g of 3-phenoxyphenylmethyl 2,2-dimethyl-3-formylcyclopropanecarboxylate was obtained as a colorless oil.

reactant | Ozone | O=[O+][O-] | O3
reactant | 3-phenoxyphenylmethyl 2,2-dimethyl- 3-(2-methyl-1-propenyl)cyclopropanecarboxylate | 10.0 mmol, 3.50 g | CC1(C(C1C=C(C)C)C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C23H26O3
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 3-phenoxyphenylmethyl 2,2-dimethyl-3-formylcyclopropanecarboxylate | 2.66 g | CC1(C(C1C=O)C(=O)OCC1=CC(=CC=C1)OC1=CC=CC=C1)C | C20H20O4
